US05550258
After 0.26 g of (RS)-3-isopropyl-4-methylidenecyclopent-2-en-1-ol was dissolved in 5 ml of toluene, 0.23 ml of pyridine was added to the toluene solution. Under ice-water cooling, 0.55 g of (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimeth ylcyclopropanecarboxylic acid chloride was added drop-wise to the mixed solution, and then stirred at an ambient temperature for six hours. The reaction solution was poured into ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed successively with 5% aqueous hydrochloric acid, water, and a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the obtained oily substance was subjected to silica gel column chromatography to yield 0.25 g of (RS)-3-isopropyl-4-methylidenecyclopenten-2-yl (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarb oxylate (Compound No.6). Yield 39%

reactant | (RS)-3-isopropyl-4-methylidenecyclopent-2-en-1-ol | 0.26 g | C(C)(C)C1=CC(CC1=C)O | C9H14O
reactant | pyridine | 0.23 ml | N1=CC=CC=C1 | C5H5N
reactant | (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimeth ylcyclopropanecarboxylic acid chloride | 0.55 g | Cl\C(=C/[C@H]1C([C@H]1C(=O)Cl)(C)C)\C(F)(F)F | C9H9Cl2F3O
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-3-isopropyl-4-methylidenecyclopenten-2-yl (1RS)-cis-3-(Z-2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarb oxylate | 0.25 g, Yield 39% | Cl\C(=C/[C@H]1C([C@H]1C(=O)OC1=CCC(C1C(C)C)=C)(C)C)\C(F)(F)F | C18H22ClF3O2
